US08431569B2
7-(2-Aminopyrimidin-5-yl)-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-8-iodo-5H-pyrido[4,3-b]indole-4-carboxamide
To a stirred slurry of 7-(2-aminopyrimidin-5-yl)-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide (60 mg, 0.14 mmol) and bis(pyridine)iodonium tetrafluoroborate (152 mg, 0.41 mmol) in DCM (2.5 mL) was added trifluoromethanesulfonic acid (0.11 mL, 1.2 mmol). The reaction mixture was left to stir for 2 d, treated with additional bis(pyridine)iodonium tetrafluoroborate (152 mg, 0.41 mmol) and trifluoromethanesulfonic acid (0.07 mL, 0.8 mmol), and left to stir for 6 h. The mixture was diluted with DCM and treated with sodium bicarbonate solution. The mixture was extracted with EtOAc, and the combined organics were washed with brine, dried (sodium sulfate), concentrated, and purified by flash chromatography to afford the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 11.78 (s, 1H); 9.02 (s, 1H), 8.51 (s, 1H); 8.23 (s, 2H); 7.92 (br s, 1H); 7.70 (s, 1H); 7.78 (br s, 1H); 7.77 (d, 1H); 6.80 (s, 2H); 4.87 (m, 1H); 1.58 (m, 1H); 0.73 (m, 1H); 0.62 (m, 1H); 0.54 (m, 1H); 0.32 (m, 1H). LRMS (APCI) calc'd for (C21H17IF3N7O) [M+H]+, 568.0. found 568.0.

reactant | 7-(2-aminopyrimidin-5-yl)-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide | 0.14 mmol, 60 mg | NC1=NC=C(C=N1)C=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C(=O)N | C21H18F3N7O
reactant | bis(pyridine)iodonium tetrafluoroborate | 0.41 mmol, 152 mg | [B-](F)(F)(F)F.C1=CC=NC=C1.C1=CC=NC=C1.[IH2+]
reactant | trifluoromethanesulfonic acid | 1.2 mmol, 0.11 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | bis(pyridine)iodonium tetrafluoroborate | 0.41 mmol, 152 mg | [B-](F)(F)(F)F.C1=CC=NC=C1.C1=CC=NC=C1.[IH2+]
reactant | trifluoromethanesulfonic acid | 0.8 mmol, 0.07 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 7-(2-Aminopyrimidin-5-yl)-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-8-iodo-5H-pyrido[4,3-b]indole-4-carboxamide | NC1=NC=C(C=N1)C=1C(=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C(=O)N)I | C21H17F3IN7O
